US07842696B2
DIPEA (253 mg, 0.34 mL, 1.9 mmol) was added to a stirred solution of 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt (184 mg, 0.52 mmol) in DMF (4 mL). HOBT (64.8 mg, 0.479 mmol) and EDCI (167 mg, 0.87 mmol) were then added at room temperature. After 2 minutes, 6-benzyloxy-nicotinic acid (100 mg, 0.43 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to get the residue. The obtained residue was purified by column chromatography (using silica gel of 60-120 mesh and 70% EtOAc in Hexane as eluent) to afford 102 mg (45.33% yield) 6-benzyloxy-N-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-nicotinamide. LCMS Purity: 98.91%. 1H NMR (DMSO-d6): δ 8.7 (d, 2H), 8.2-8.1 (d, 1H), 7.9-7.64 (m, 5H), 7.62-7.5 (m, 1H), 7.5-7.3 (m, 3H), 7.0-6.9 (d, 1H), 5.4 (s, 2H), 4.24-4.06 (d, 2H), 3.8-3.56 (m, 4H), 3.54-3.4 (m, 2H), 3.2-3.02 (m, 2H).

reactant | DIPEA | 1.9 mmol, 0.34 mL, 253 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt | 0.52 mmol, 184 mg | Cl.NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O
reactant | HOBT | 0.479 mmol, 64.8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.87 mmol, 167 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 6-benzyloxy-nicotinic acid | 0.43 mmol, 100 mg | C(C1=CC=CC=C1)OC1=NC=C(C(=O)O)C=C1 | C13H11NO3
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-benzyloxy-N-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-nicotinamide | 102 mg, 45.33% yield | C(C1=CC=CC=C1)OC1=NC=C(C(=O)NCC(N2CCN(CC2)C(C2=C(C=CC=C2)C(F)(F)F)=O)=O)C=C1 | C27H25F3N4O4
